US09353027B2
Synthesis of 3-bromo-1,6-diphenylpyrene
Under a flow of argon, 11.8 g of 1,6-diphenylpyrene, 5.93 g of N-bromosuccinimide and DMF were placed into a flask. The resulting mixture was allowed to react at 60° C. for 2 days. After cooling, the reaction solution was filtered, and solids obtained were washed with clean water, methanol and clean water, and solids obtained were dried under a reduced pressure, whereby white solids of 3-bromo-1,6-diphenylpyrene (8.60 g) were obtained.

reactant | 1,6-diphenylpyrene | 11.8 g | C1(=CC=CC=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=CC=C3 | C28H18
reactant | N-bromosuccinimide | 5.93 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-bromo-1,6-diphenylpyrene | BrC=1C=C(C2=CC=C3C=CC(=C4C=CC1C2=C43)C4=CC=CC=C4)C4=CC=CC=C4 | C28H17Br
